US07288538B2
To a solution of 2,4,6-trimethylaniline (70 mg, 0.518 mmol) in dichloromethane (0.20 mL) and triethylamine (72 □L, 0.52 mmol) was added 3-benzenesulfonylamino-thiophene-2-carboxylic acid chloride (134 mg, 0.444 mmol). The resulting mixture was allowed to stir overnight at room temperature under a nitrogen atmosphere. The reaction mixture was applied directly to silica gel, (9:1 hexane/ethyl acetate, gradient to 4:1 hexane ethyl acetate). The compound was then precipitated from hexanes and dichloromethane to give 3-benzenesulfonylamino-thiophene-2-carboxylic acid (2,4,6-trimethylphenyl) amide as a white solid (0.028 g, 16%).

reactant | 2,4,6-trimethylaniline | 0.518 mmol, 70 mg | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | triethylamine | 0.52 mmol | C(C)N(CC)CC | C6H15N
reactant | 3-benzenesulfonylamino-thiophene-2-carboxylic acid chloride | 0.444 mmol, 134 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(SC=C1)C(=O)Cl | C11H8ClNO3S2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | hexane ethyl acetate | C(C)OC(C)=O.CCCCCC
solvent | dichloromethane | 0.20 mL | ClCCl | CH2Cl2
product | 3-benzenesulfonylamino-thiophene-2-carboxylic acid (2,4,6-trimethylphenyl) amide | 0.028 g, 16% | CC1=C(C(=CC(=C1)C)C)NC(=O)C=1SC=CC1NS(=O)(=O)C1=CC=CC=C1 | C20H20N2O3S2
